US06660744B1
A mixture of trifluoroacetic acid/dichloromethane (20:80, 8 mL) was added to a solution of tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyrrolidinecarboxylate (240 mg, 0.508 mmol) in dichloromethane (1 mL) at 0° C. After 15 minutes, the ice-bath was removed and the reaction mixture was stirred at room temperature for 5 hours. Solvents were then evaporated and the residue was dissolved in ethyl acetate. Saturated sodium bicarbonate was added to adjust the pH to about 8. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated give 3-(4-phenoxyphenyl)-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.157 mg, 91%). 1H NMR (DMSO-d6) δ 1.99-2.21 (m, 2H), 2.94 (m, 1H), 3.04-3.23 (m, 3H), 5.31 (m, 1H), 7.14 (m, 5H), 7.44 (m, 2H), 7.67 (m, 2H), 8.24 (s, 1H).

reactant | trifluoroacetic acid dichloromethane | 8 mL | FC(C(=O)O)(F)F.ClCCl
reactant | tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyrrolidinecarboxylate | 0.508 mmol, 240 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(CC2)C(=O)OC(C)(C)C | C26H28N6O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(4-phenoxyphenyl)-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.157 mg, 91% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CNCC2 | C21H20N6O
